US20010036950A1
4-(3,4-dichlorophenyl)-4,6,7,8-tetrahydro-2-methyl-3-(methylsulfonyl)-5(1H)-quinolinone
A solution of methanesulfonylacetone (135 mg, 1.00 mmol), 3,4-dichlorobenzaldehyde (175 mg, 1.00 mmol) and 3-amino-2-cyclohexen-1-one (111 mg, 1.00 mmol) in ethanol (7 mL) was heated to reflux for 24 hours and cooled. The solid that precipitated was collected, washed with ethanol, dried, and triturated with methanol to provide the title compound. MS (APCI) m/e 386 (M+H)+, 388 (M+H)+; 1H NMR (DMSO-d6) 1.75 (m, 1H), 1.90 (m, 1H), 2.21 (m, 2H), 2.32 (s, 3H), 2.50 (m, 2H), 2.73 (s, 3H), 4.94 (s, 1H), 7.18 (dd, 1H), 7.34 (d, 1H), 7.53 (d, 1H), 9.48 (br s, 1H); Anal. Calcd for C17H17Cl2NO3S: C, 52.86; H, 4.44; N, 3.63. Found: C, 52.91; H, 4.31; N, 3.55.

reactant | methanesulfonylacetone | 1.00 mmol, 135 mg | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | 3,4-dichlorobenzaldehyde | 1.00 mmol, 175 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 3-amino-2-cyclohexen-1-one | 1.00 mmol, 111 mg | NC1=CC(CCC1)=O | C6H9NO
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 4-(3,4-dichlorophenyl)-4,6,7,8-tetrahydro-2-methyl-3-(methylsulfonyl)-5(1H)-quinolinone | ClC=1C=C(C=CC1Cl)C1C(=C(NC=2CCCC(C12)=O)C)S(=O)(=O)C | C17H17Cl2NO3S
